US04092304
17.1 Parts N-t-butoxycarbonyl-L-tryptophyl-L-methionine benzyl ester is dissolved in 200 parts dioxane and treated with a 10 fold excess of 2N hydrochloric acid in dioxane for 10 minutes. Removal of the solvent under reduced pressure affords pure L-tryptophyl-L-methionine benzyl ester hydrochloride.

reactant | N-t-butoxycarbonyl-L-tryptophyl-L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)CCSC)=O | C28H35N3O5S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-tryptophyl-L-methionine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)CC1=CNC2=CC=CC=C12)=O)CCSC)=O | InChI=1S/C23H27N3O3S.ClH/c1-30-12-11-21(23(28)29-15-16-7-3-2-4-8-16)26-22(27)19(24)13-17-14-25-20-10-6-5-9-18(17)20;/h2-10,14,19,21,25H,11-13,15,24H2,1H3,(H,26,27);1H/t19-,21-;/m0./s1
